US05399542
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(N-benzyl-3-oxo-(2H)-1,4-benzoxazin-6-yl )-cyclohex-2-en-1-one
To 10 mL of methyl sulfoxide were added in sequence 1.4 g (3.5 mmol) of 2-propionyl-3-hydroxy-5-(N-benzyl-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one, 0.42 g (4.4 mmol) of ethoxyamine hydrochloride and 0.37 g (4.5 mmol) of anhydrous sodium acetate. The resulting mixture was stirred at ambient temperature for 3 hours. The reaction mixture was diluted with 50 mL of 0.5N HCl and extracted twice with 30 mL portions of ethyl acetate. The extracts were combined, dried over MgSO4 and filtered. Evaporation off of the solvent gave an oily residue. The residue was dissolved in 50 mL of ether, washed with water, then an aqueous NaCl solution, dried over MgSO4 and filtered. Evaporation off of the solvent gave a light amber glass which crystallized upon standing. The crude solid product was triturated in ether and the above-named product was isolated by filtration as a tan solid in a yield of 0.90 g (58 percent of theoretical). The product melted at 108°-110° C.; 1H NMR (CDCl3): d1.05-1.41 (m, 6H, both --CH2CH3 's), 2.42-3.45 (m, 7H), 4.12 (q, J=7 Hz, 2H, --OCH2CH3), 4.72 (2, 2H, --OCH2C=O), 5.20 (s, 2H, --CH2Ph), 6.75-7.08 (m, 3H, aromatic H's), 7.30 (s, 5H, --CH2Ph) ca. 14.7 (broad s, 1H, enol H); (Compound 7).

reactant | methyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
reactant | 2-propionyl-3-hydroxy-5-(N-benzyl-3-oxo-(2H)-1,4-benzoxazin-6-yl)cyclohex-2-en-1-one | 3.5 mmol, 1.4 g | C(CC)(=O)C=1C(CC(CC1O)C=1C=CC2=C(N(C(CO2)=O)CC2=CC=CC=C2)C1)=O | C24H23NO5
reactant | ethoxyamine hydrochloride | 4.4 mmol, 0.42 g | Cl.C(C)ON
reactant | sodium acetate | 4.5 mmol, 0.37 g | C(C)(=O)[O-].[Na+]
solvent | HCl | 0.5N, 50 mL | Cl | ClH
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(N-benzyl-3-oxo-(2H)-1,4-benzoxazin-6-yl )-cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C=1C=CC2=C(N(C(CO2)=O)CC2=CC=CC=C2)C1)=O | C26H28N2O5
